US06034151
Synthesis of 1-methoxycarbonyl-2-vinvlcyclopropane-1-carboxylic acid-[2-hydroxy-3-(3-trimethoxysilylpropoxy)propyl]ester
A mixture of 10.0 g (58 mmol) 1-methoxycarbonyl-2-vinylcyclopropane carboxylic acid, 14.0 g trimethoxysilylpropylglycidyl-ether and 100 mg lithium perchlorate in 20 ml dichloromethane were stirred at room temperature for 15 days. After removal of solvent in vacuo, 20 g (83% yield) of a clear, yellow viscous liquid remained.

reactant | 1-methoxycarbonyl-2-vinylcyclopropane carboxylic acid | 58 mmol, 10.0 g | COC(=O)C1(C(C1)C=C)C(=O)O | C8H10O4
reactant | trimethoxysilylpropylglycidyl-ether | 14.0 g | CO[Si](OC)(OC)CCCOCC1CO1 | C9H20O5Si
reactant | lithium perchlorate | 100 mg | Cl(=O)(=O)(=O)[O-].[Li+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-methoxycarbonyl-2-vinvlcyclopropane-1-carboxylic acid-[2-hydroxy-3-(3-trimethoxysilylpropoxy)propyl]ester | 83% yield | OC(COC(=O)C1(C(C1)C=C)C(=O)OC)COCCC[Si](OC)(OC)OC | C17H30O9Si
